US05360800
2,3,4,5-Tetrahydro-5-[(phenylmethoxy)methyl]-1H-pyrido[4,3-b]indol-1-one
a solution of 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one (1.12 g) in dry DMF (60 ml) was treated with sodium hydride (60% dispersion in oil; 480 mg) and the resulting mixture was stirred under nitrogen until effervescence ceased. The mixture was then cooled to 0° and benzyl (chloromethyl) ether (10% w/v solution in DMF; 0,835 ml) was added over 10 min. Stirring was continued for a further 5 min and then water (10 ml) was added. The reaction mixture was concentrated in vacuo to give an oil which was dissolved in ethyl acetate (100 ml) and washed with water (3×100 ml). The organic phase was dried and adsorbed onto FCC silica. Purification by FCC eluting with System A (150:8:1) gave the title compound 1.1 g), m.p. 133°-135°.

reactant | 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 1.12 g | C1(NCCC=2NC=3C=CC=CC3C21)=O | C11H10N2O
reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | benzyl (chloromethyl) ether | 0,835 ml | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | water | 10 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2,3,4,5-Tetrahydro-5-[(phenylmethoxy)methyl]-1H-pyrido[4,3-b]indol-1-one | 1.1 g | C1(=CC=CC=C1)COCN1C2=C(C=3C=CC=CC13)C(NCC2)=O | C19H18N2O2
